US05344843
A stirred mixture of 4-hydroxy-2-methylacetophonone (2 g) in dimethylformamide (30 mL) under argon was treated with 55% sodium hydride (0.58 g), stirred for 30 minutes and treated with 2-(2-naphthalenyloxy)ethyl methanesulfonate (3.65 g). The mixture was heated at 60° C. for 2 hours, cooled, diluted with water and filtered. The damp solids were mixed with water and excess sodium hydroxide solution, the product was extracted twice with dichloromethane, and the organic layers were washed with water. The combined organic layers were dried (Na2SO4), filtered, and evaporated to give crude material which was crystallized from dichloromethane-diethyl ether to provide 3.5 g of 1-[2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]phenyl]ethanone as a colorless solid, mp 128°-130° C.

reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | 2-(2-naphthalenyloxy)ethyl methanesulfonate | 3.65 g | CS(=O)(=O)OCCOC1=CC2=CC=CC=C2C=C1 | C13H14O4S
reactant | water | O | H2O
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-[2-methyl-4-[2-(2-naphthalenyloxy)ethoxy]phenyl]ethanone | 3.5 g | CC1=C(C=CC(=C1)OCCOC1=CC2=CC=CC=C2C=C1)C(C)=O | C21H20O3
